US06511995B1
Synthesis of N1-{6-[(3,4-dihydro-1(2H)-naphthalenon-6-yl)oxy]pyridin-3-yl}-N3-[4-(trifluoromethyl)phenyl]urea
To a solution of N1-{1-acetoxy-6-[(3,4-dihydronaphthalene-6-yl)oxy]pyridine-3-yl}-N3-[4-(trifluoromethyl)phenyl]urea (450 mg) in ethanol (20 ml), 980 mg of potassium carbonate was added and the mixture was stirred at room temperature for 40 minutes. After the reaction mixture was filtered and concentrated, the residue was dissolved in ethyl acetate and the solution was washed with water. After drying over anhydrous magnesium sulfate, the solvent was distilled off. The residue was washed with ether to obtain 290 mg of the titled compound as a white powder.

reactant | N1-{1-acetoxy-6-[(3,4-dihydronaphthalene-6-yl)oxy]pyridine-3-yl}-N3-[4-(trifluoromethyl)phenyl]urea | 450 mg | C(C)(=O)ON1CC(=CC=C1OC=1C=C2CCC=CC2=CC1)NC(=O)NC1=CC=C(C=C1)C(F)(F)F | C25H22F3N3O4
reactant | potassium carbonate | 980 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N1-{6-[(3,4-dihydro-1(2H)-naphthalenon-6-yl)oxy]pyridin-3-yl}-N3-[4-(trifluoromethyl)phenyl]urea | 290 mg | C1(CCCC2=CC(=CC=C12)OC1=CC=C(C=N1)NC(=O)NC1=CC=C(C=C1)C(F)(F)F)=O | C23H18F3N3O3
